US07291641B2
322.1) 9-acetyl-9H-carbazole
This compound is obtained according to Tetrahedron (1980), 36, 3017-3019. The carbazole (10 g; 60 mmol) is suspended in 150 ml of acetic anhydride. 70% perchloric acid (0.5 ml) is added. After stirring for 30 minutes at ambient temperature, the mixture is poured into ice and the precipitate formed is filtered. After drying under vacuum, redissolving in dichloromethane and treatment with bone charcoal, the suspension is filtered on celite, the solvents are evaporated off and the product recrystallized from heptane. 12 g of brown crystals (yield of 90%) is obtained in this way. Melting point: 70-71° C. (literature: 72-74° C.).

reactant | carbazole | 60 mmol, 10 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | perchloric acid | 0.5 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 9-acetyl-9H-carbazole | 12 g, yield of 90% | C(C)(=O)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H11NO
